US04735959
3-{4-[N-(α-(4-Methyl-phenyl)-2-piperidino-benzyl)-aminocarbonylmethyl]-phenyl}-propionic acid
An amount of 0.91 gm (2 m mol) of 4-[N-(α-(4-methyl-phenyl)-2-piperidino-benzyl)-aminocarbonylmethyl]-cinnamic acid was dissolved in 50 ml of methanol, and, after the addition of 0.5 gm of palladium (10% on charcoal), the mixture was catalytically hydrogenated at ambient temperature under a hydrogen pressure of 3 bar. After the hydrogen uptake ended, the catalyst was filtered off and recrystallized from a small amount of acetonitrile.

reactant | 4-[N-(α-(4-methyl-phenyl)-2-piperidino-benzyl)-aminocarbonylmethyl]-cinnamic acid | 0.91 gm | CC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(C=CC(=O)O)C=C1 | C30H32N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium | 0.5 gm | [Pd] | Pd
product | 3-{4-[N-(α-(4-Methyl-phenyl)-2-piperidino-benzyl)-aminocarbonylmethyl]-phenyl}-propionic acid | CC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(C=C1)CCC(=O)O | C30H34N2O3
